US06403772B1
(1) Synthesis of trimethylsilyl-1,4-pentadiene
A solution containing 1,4-pentadiene (5 g, 73 mol) in diethylether (100 ml) was lowered to −78° C. and n-butyllithium was added dropwise (72 mmol, 1.6M soln. in hexanes, 45 ml). The flask was stirred overnight and the temperature was allowed to warm to ambient. Solvents were removed in vacuo and a bright yellow powder was isolated. The sample was then re-dissolved in fresh diethyl ether (100 ml) and the temperature was lowered to −78° C. Trimethylchlorsilane (7.9 mmol, 10 ml) was added dropwise. The reaction was allowed to slowly warm to ambient and the flask contents stirred overnight. Solvents were removed in vacuo. 1M-NMR: CTHF-d8) d, ppm; 6.25 (m, 2H), 5.9 (m, 2H), 5.65 (m, 2H), 4.95 (s, 1H), 4.90 (s, 1H), 4.80 (s, 1H), 4.75 (s, 1H), 1.5 (d, 2H), 0 (m, 9H).

reactant | 1,4-pentadiene | 73 mol, 5 g | C=CCC=C | C5H8
reactant | n-butyllithium | C(CCC)[Li]
reactant | Trimethylchlorsilane | 7.9 mmol, 10 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | trimethylsilyl-1,4-pentadiene | C[Si](C)(C)C=CCC=C | C8H16Si
